US07132419B2
4-(Cyanomethyl-amino)-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide
To a solution of 4-amino-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide (69 mg) in methanol (10 mL) was added formaldehyde (37% solution, 11.0 mL), potassium cyanide (102 mg) and 2N HCl (1.0 mL). The reaction mixture was heated to 50° C. for 3 hours. The reaction mixture was then cooled, diluted with water and sodium bicarbonate solution, extracted into dichloromethane, dried (MgSO4) and the solvent removed in vacuo to yield crude product. This was purified using flash chromatography (10% methanol in dichloromethane) to yield the title compound as a violet coloured solid (13 mg).

reactant | 4-amino-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 69 mg | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4N)C | C21H21N5O
reactant | formaldehyde | 11.0 mL | C=O | CH2O
reactant | potassium cyanide | 102 mg | [C-]#N.[K+]
reactant | HCl | 2N, 1.0 mL | Cl | ClH
reactant | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-(Cyanomethyl-amino)-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4NCC#N)C | C23H22N6O
